US07402684B2
(R)-2-[4-(4-Pyrazol-1-yl-phenoxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 1 in Example 133 with the use of (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (147 mg, 0.5 mmol) and 1-(4-iodo-phenyl)-1H-pyrazole (203 mg, 0.75 mmol) to afford the title product (140 mg, 60% yield).

reactant | (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 147 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | 1-(4-iodo-phenyl)-1H-pyrazole | 0.75 mmol, 203 mg | IC1=CC=C(C=C1)N1N=CC=C1 | C9H7IN2
product | (R)-2-[4-(4-Pyrazol-1-yl-phenoxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 140 mg, 60% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OC1=CC=C(C=C1)N1N=CC=C1 | C25H29N3O4
